US06261738B1
37.2 g (0.182 mol) of 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone are dissolved in 150 ml of ethanol at 80° C. To the solution are added dropwise 13.3 g (0.191 mol) of hydroxylammonium chloride and 25.4 g (0.309 mol) of sodium acetate dissolved in 75 ml of water. The reaction mixture is refluxed for 4 hours. The mixture is poured into ice water, the precipitate is filtered, yielding 30.0 g of 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime as a pale yellow solid. The crude product is used in the next reaction step without further purification.

reactant | 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone | 0.182 mol, 37.2 g | FC(C(=O)C1=CC=C(C=C1)OC)(F)F | C9H7F3O2
reactant | hydroxylammonium chloride | 0.191 mol, 13.3 g | [Cl-].O[NH3+]
reactant | sodium acetate | 0.309 mol, 25.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime | 30.0 g | FC(C(=NO)C1=CC=C(C=C1)OC)(F)F | C9H8F3NO2
